* source ADC
C_C1         N01906 N01917  32n IC=0 TC=0,0 
R_R1         N01906 N29993  100k TC=0,0 
U_DSTM1         STIM(1,1) $G_DPWR $G_DGND N086260 IO_STM IO_LEVEL=0 
+ 0 0
+ +0 1
+REPEAT FOREVER
+ +500n 0
+  +500n 1
+ ENDREPEAT
X_CNTA         N237358 RST_CNT N140538 Q0 Q1 Q2 Q3 VCC 0 CD4520B PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_CNTB         0 RST_CNT Q3 Q4 Q5 Q6 Q7 VCC 0 CD4520B PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
V_V4         VCC 0 10V
X_STATEBUFF          CLK 0 0 0 N0 N1 N2 0 VCC VCC S0 S1 S2 M_UN0001 CD4076B
+  PARAMS: IO_LEVEL=0 MNTYMXDLY=0
X_AND8          Q0 Q1 Q2 Q3 Q7 Q6 Q5 Q4 M_UN0002 A M_UN0003 M_UN0004 CD4068B
+  PARAMS: IO_LEVEL=0 MNTYMXDLY=0
U_DSTM5         STIM(1,0) $G_DPWR $G_DGND T IO_STM STIMULUS=TRIGGER
V_Vref         N33002 0 -5
X_IC9          VIN N29993 N33002 N29993 0 0 N01906 N01917 I0 I1 0 RST_IN VCC 0
+  CD4066B
X_IC10          S0 S1 S2 0 NX0 NX1 N99368 M_UN0005 NX4 M_UN0006 M_UN0007
+  M_UN0008 M_UN0009 M_UN0010 CD4028B PARAMS: IO_LEVEL=0 MNTYMXDLY=0
X_U49C         NX0 NZ0 $G_DPWR $G_DGND 74HC04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U48C         NX0 NY0 $G_DPWR $G_DGND 74HC04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U50C         NX1 NY1 $G_DPWR $G_DGND 74HC04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_IC11          NX0 NX1 NX2 NX3 NX4 NX5 0 0 S0 S1 S2 0 0 N0 CD4512B PARAMS:
+  IO_LEVEL=0 MNTYMXDLY=0
X_IC12          NY0 NY1 T NY3 NY4 NY5 0 0 S0 S1 S2 0 0 N1 CD4512B PARAMS:
+  IO_LEVEL=0 MNTYMXDLY=0
X_IC13          NZ0 T NZ2 NZ3 T NZ5 0 0 S0 S1 S2 0 0 N2 CD4512B PARAMS:
+  IO_LEVEL=0 MNTYMXDLY=0
X_U53C         P NP $G_DPWR $G_DGND 74HC04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U55C         T NT $G_DPWR $G_DGND 74HC04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U59A         ARISE T NY5 $G_DPWR $G_DGND 74LS08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U59B         NARISE T NZ5 $G_DPWR $G_DGND 74LS08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U62C         N99368 NZ2 $G_DPWR $G_DGND 74HC04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U63B         ARISE NT NX2 $G_DPWR $G_DGND 74LS32 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U64B         NT P NX3 $G_DPWR $G_DGND 74LS32 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U66B         T NP NZ3 $G_DPWR $G_DGND 74LS08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U67C         NX4 NY4 $G_DPWR $G_DGND 74HC04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
V_V5         VSS 0 -10
X_U78A         MEAS CLK_EN_OVERIDE N140538 $G_DPWR $G_DGND 74LS08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_OUTPUTBUFF1          WR 0 0 0 Q0 Q1 Q2 Q3 VCC VCC Y0 Y1 Y2 Y3 CD4076B PARAMS:
+  IO_LEVEL=0 MNTYMXDLY=0
X_OUTPUTBUFF2          WR 0 0 0 Q4 Q5 Q6 Q7 VCC VCC Y4 Y5 Y6 Y7 CD4076B PARAMS:
+  IO_LEVEL=0 MNTYMXDLY=0
C_C2         VCC 0  10u  TC=0,0 
C_C3         0 VSS  10u  TC=0,0 
X_U29A         RST_IN N162460 N162372 $G_DPWR $G_DGND 74LS08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U10B         S0 S1 I1 $G_DPWR $G_DGND 74LS08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U12F         S0 N162940 $G_DPWR $G_DGND 74HC04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U28E         S2 N162460 $G_DPWR $G_DGND 74HC04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U30B         S1 N162594 MEAS $G_DPWR $G_DGND 74LS32 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U6B         S0 S1 N162266 $G_DPWR $G_DGND 74LS32 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U31A         S0 S2 N162594 $G_DPWR $G_DGND 74LS08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U11B         S1 N162940 I0 $G_DPWR $G_DGND 74LS08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U8A         S0 N162372 RST_CNT $G_DPWR $G_DGND 74LS08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U9B         S1 RST_IN $G_DPWR $G_DGND 74HC04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U7A         N162266 WR $G_DPWR $G_DGND 74HC04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U85B          0 N01906 VCC VSS N01917 ad648a
X_U88         N291780 0 VCC 0 N180505 LM2903/5_1/TI
C_C4         0 N180505  15p  TC=0,0 
R_R3         N180505 VCC  1k TC=0,0 
X_U91A         N180505 N299526 VCC 0 CD40106B PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U95B         T P NY3 $G_DPWR $G_DGND 74LS08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U96C         N2369790 N2369791 $G_DPWR $G_DGND 74HC04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U97C         N2369791 N2370941 $G_DPWR $G_DGND 74HC04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U98C         N2370941 N237358 $G_DPWR $G_DGND 74HC04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U99C         CLK N2369790 $G_DPWR $G_DGND 74HC04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U105         N254178 CLK S0CHANGE ARISE M_UN0011 $G_DPWR $G_DGND JKFF
X_U109         S0 CLK N2434742 N243538 N301289 $G_DPWR $G_DGND JKFF
X_U110C         S0 N2434742 $G_DPWR $G_DGND 74HC04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U111C         ARISE CLK_EN_OVERIDE $G_DPWR $G_DGND 74HC04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U113C         S0CHANGE N251743 $G_DPWR $G_DGND 74HC04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U114A         N251743 A N254178 $G_DPWR $G_DGND 74LS08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U118C         ARISE NARISE $G_DPWR $G_DGND 74HC04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U119B         NARISE NT NX5 $G_DPWR $G_DGND 74LS32 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
V_V7         VIN 0 4
X_U120         VCC N271757 VCC N271786 M_UN0012 $G_DPWR $G_DGND JKFF
X_U121B         N086260 N271757 VCC 0 CD40106B PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U122B         N271786 CLK VCC 0 CD40106B PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U123B          0 N294365 VCC VSS N291780 ad648a
R_R4         N01917 N294365  1k TC=0,0 
R_R5         N294365 N291780  1k TC=0,0 
X_U124A         N299526 P VCC 0 CD40106B PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U125A         N243538 N301089 N301325 $G_DPWR $G_DGND 74LS08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U125B         N301289 S0 N301337 $G_DPWR $G_DGND 74LS08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U126B         N301325 N301337 S0CHANGE $G_DPWR $G_DGND 74LS32 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U127C         S0 N301089 $G_DPWR $G_DGND 74HC04 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
** Floating/unmodeled pin fixups **
R__UC0001   M_UN0001  0   {1/GMIN}
R__UC0002   M_UN0002  0   {1/GMIN}
R__UC0003   M_UN0003  0   {1/GMIN}
R__UC0004   M_UN0004  0   {1/GMIN}
R__UC0005   M_UN0005  0   {1/GMIN}
R__UC0006   M_UN0006  0   {1/GMIN}
R__UC0007   M_UN0007  0   {1/GMIN}
R__UC0008   M_UN0008  0   {1/GMIN}
R__UC0009   M_UN0009  0   {1/GMIN}
R__UC0010   M_UN0010  0   {1/GMIN}
