* source ADC
C_C1         N01906 N01917  32n IC=0 TC=0,0 
R_R1         N01906 N29993  100k TC=0,0 
V_V4         VCC 0 10V
U_DSTM5         STIM(1,0) $G_DPWR $G_DGND T IO_STM STIMULUS=TRIGGER
V_Vref         N33002 0 -5
X_IC9          VIN N29993 N33002 N29993 0 0 N01906 N01917 I0 I1 0 RST_IN VCC 0
+  CD4066B
V_V5         VSS 0 -10
C_C3         0 VSS  10u  TC=0,0 
X_U85B          0 N01906 VCC VSS N01917 ad648a
X_U88         N291780 0 VCC 0 N180505 LM2903/5_1/TI
C_C4         0 N180505  15p  TC=0,0 
R_R3         N180505 VCC  1k TC=0,0 
X_U91A         N180505 N299526 VCC 0 CD40106B PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U123B          0 N294365 VCC VSS N291780 ad648a
R_R4         N01917 N294365  1k TC=0,0 
R_R5         N294365 N291780  1k TC=0,0 
X_U124A         N299526 P VCC 0 CD40106B PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
V_V6         VIN 0  
+PULSE 2.5 5 0 1 5 0 10
C_C2         0 VCC  10u  TC=0,0 
X_U59A         ARISE T NY5 $G_DPWR $G_DGND 74LS08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U64B         NT P NX3 $G_DPWR $G_DGND 74LS32 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U114A         N365081 A N365101 $G_DPWR $G_DGND 74LS08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_IC13          NZ0 T NZ2 NZ3 T NZ5 0 0 S0 S1 S2 0 0 N2 CD4512B PARAMS:
+  IO_LEVEL=0 MNTYMXDLY=0
X_U95B         T P NY3 $G_DPWR $G_DGND 74LS08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U119B         NARISE NT NX5 $G_DPWR $G_DGND 74LS32 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_IC12          NY0 NY1 T NY3 NY4 NY5 0 0 S0 S1 S2 0 0 N1 CD4512B PARAMS:
+  IO_LEVEL=0 MNTYMXDLY=0
X_U125A         N364495 N364621 N364541 $G_DPWR $G_DGND 74LS08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U6B         S0 S1 N365337 $G_DPWR $G_DGND 74LS32 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U29A         RST_IN N365667 N365523 $G_DPWR $G_DGND 74LS08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U30B         S1 N365843 MEAS $G_DPWR $G_DGND 74LS32 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U109         S0 CLK N402827 N364495 N364771 $G_DPWR $G_DGND JKFF
X_U8A         S0 N365523 RST_CNT $G_DPWR $G_DGND 74LS08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U11B         S1 N366199 I0 $G_DPWR $G_DGND 74LS08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U66B         T NP NZ3 $G_DPWR $G_DGND 74LS08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U126B         N364541 N364729 S0CHANGE $G_DPWR $G_DGND 74LS32 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U105         N365101 CLK S0CHANGE ARISE CLK_EN_OVERIDE $G_DPWR $G_DGND JKFF
X_U31A         S0 S2 N365843 $G_DPWR $G_DGND 74LS08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U10B         S0 S1 I1 $G_DPWR $G_DGND 74LS08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U59B         NARISE T NZ5 $G_DPWR $G_DGND 74LS08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U63B         ARISE NT NX2 $G_DPWR $G_DGND 74LS32 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_IC10          S0 S1 S2 0 SB0 SB1 SB2 M_UN0001 SB4 M_UN0002 M_UN0003 M_UN0004
+  M_UN0005 M_UN0006 CD4028B PARAMS: IO_LEVEL=0 MNTYMXDLY=0
X_U125B         N364771 S0 N364729 $G_DPWR $G_DGND 74LS08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_STATEBUFF          CLK 0 0 0 N0 N1 N2 0 VCC VCC S0 S1 S2 M_UN0007 CD4076B
+  PARAMS: IO_LEVEL=0 MNTYMXDLY=0
X_IC11          SB0 SB1 NX2 NX3 SB4 NX5 0 0 S0 S1 S2 0 0 N0 CD4512B PARAMS:
+  IO_LEVEL=0 MNTYMXDLY=0
X_OUTPUTBUFF2          WR 0 0 0 Q4 Q5 Q6 Q7 VCC VCC Y4 Y5 Y6 Y7 CD4076B PARAMS:
+  IO_LEVEL=0 MNTYMXDLY=0
X_U121B         N3832700 N383332 VCC 0 CD40106B PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U120         VCC N383332 VCC N383376 M_UN0008 $G_DPWR $G_DGND JKFF
X_U78A         MEAS CLK_EN_OVERIDE N383762 $G_DPWR $G_DGND 74LS08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_CNTA         N383512 RST_CNT N383762 Q0 Q1 Q2 Q3 VCC 0 CD4520B PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_OUTPUTBUFF1          WR 0 0 0 Q0 Q1 Q2 Q3 VCC VCC Y0 Y1 Y2 Y3 CD4076B PARAMS:
+  IO_LEVEL=0 MNTYMXDLY=0
X_U122B         N383376 CLK VCC 0 CD40106B PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_CNTB         0 RST_CNT Q3 Q4 Q5 Q6 Q7 VCC 0 CD4520B PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_AND8          Q0 Q1 Q2 Q3 Q7 Q6 Q5 Q4 M_UN0009 A M_UN0010 M_UN0011 CD4068B
+  PARAMS: IO_LEVEL=0 MNTYMXDLY=0
U_DSTM1         STIM(1,1) $G_DPWR $G_DGND N3832700 IO_STM IO_LEVEL=0 
+ 0 0
+ +0 1
+REPEAT FOREVER
+ +500n 0
+  +500n 1
+ ENDREPEAT
X_U129B          N3884640 N3884641 CD4069UB PARAMS: IO_LEVEL=0 MNTYMXDLY=0
X_U129C          N3884641 N3885121 CD4069UB PARAMS: IO_LEVEL=0 MNTYMXDLY=0
X_U129D          N3885121 N383512 CD4069UB PARAMS: IO_LEVEL=0 MNTYMXDLY=0
X_U129A          CLK N3884640 CD4069UB PARAMS: IO_LEVEL=0 MNTYMXDLY=0
X_U129E          SB4 NY4 CD4069UB PARAMS: IO_LEVEL=0 MNTYMXDLY=0
X_U129F          SB2 NZ2 CD4069UB PARAMS: IO_LEVEL=0 MNTYMXDLY=0
X_U131A          ARISE NARISE CD4069UB PARAMS: IO_LEVEL=0 MNTYMXDLY=0
X_U131B          T NT CD4069UB PARAMS: IO_LEVEL=0 MNTYMXDLY=0
X_U131C          P NP CD4069UB PARAMS: IO_LEVEL=0 MNTYMXDLY=0
X_U131D          SB0 NY0 CD4069UB PARAMS: IO_LEVEL=0 MNTYMXDLY=0
X_U131E          SB0 NZ0 CD4069UB PARAMS: IO_LEVEL=0 MNTYMXDLY=0
X_U131F          SB1 NY1 CD4069UB PARAMS: IO_LEVEL=0 MNTYMXDLY=0
X_U132A          N365337 WR CD4069UB PARAMS: IO_LEVEL=0 MNTYMXDLY=0
X_U132B          S1 RST_IN CD4069UB PARAMS: IO_LEVEL=0 MNTYMXDLY=0
X_U132C          S2 N365667 CD4069UB PARAMS: IO_LEVEL=0 MNTYMXDLY=0
X_U132D          S0 N366199 CD4069UB PARAMS: IO_LEVEL=0 MNTYMXDLY=0
X_U132E          S0 N402827 CD4069UB PARAMS: IO_LEVEL=0 MNTYMXDLY=0
X_U132F          S0 N364621 CD4069UB PARAMS: IO_LEVEL=0 MNTYMXDLY=0
X_U133A          S0CHANGE N365081 CD4069UB PARAMS: IO_LEVEL=0 MNTYMXDLY=0
** Floating/unmodeled pin fixups **
R__UC0001   M_UN0001  0   {1/GMIN}
R__UC0002   M_UN0002  0   {1/GMIN}
R__UC0003   M_UN0003  0   {1/GMIN}
R__UC0004   M_UN0004  0   {1/GMIN}
R__UC0005   M_UN0005  0   {1/GMIN}
R__UC0006   M_UN0006  0   {1/GMIN}
R__UC0007   M_UN0007  0   {1/GMIN}
R__UC0008   M_UN0009  0   {1/GMIN}
R__UC0009   M_UN0010  0   {1/GMIN}
R__UC0010   M_UN0011  0   {1/GMIN}
