* source ADC
C_C1         N01906 N01917  32n IC=0 TC=0,0 
R_R1         N01906 N29993  100k TC=0,0 
V_V4         VDD 0 15V
U_DSTM5         STIM(1,0) $G_DPWR $G_DGND T IO_STM STIMULUS=TRIGGER
V_V5         VSS 0 -5
C_C3         0 VSS  10u  TC=0,0 
C_C4         0 N201913  15p  TC=0,0 
R_R3         N201913 VDD  1k TC=0,0 
R_R4         N01917 N294365  1k TC=0,0 
R_R5         N294365 N291780  1k TC=0,0 
C_C2         0 VDD  10u  TC=0,0 
X_IC13          NY0 T NZ2 NZ3 T NZ5 0 0 S0 S1 S2 0 0 N2 CD4512B PARAMS:
+  IO_LEVEL=0 MNTYMXDLY=0
X_IC12          NY0 NY1 T NY3 NY4 NY5 0 0 S0 S1 S2 0 0 N1 CD4512B PARAMS:
+  IO_LEVEL=0 MNTYMXDLY=0
X_IC10          S0 S1 S2 0 SB0 SB1 SB2 M_UN0001 SB4 M_UN0002 M_UN0003 M_UN0004
+  M_UN0005 M_UN0006 CD4028B PARAMS: IO_LEVEL=0 MNTYMXDLY=0
X_STATEBUFF1          CLK 0 0 0 N0 N1 N2 0 VDD VDD S0 S1 S2 M_UN0007 CD4076B
+  PARAMS: IO_LEVEL=0 MNTYMXDLY=0
X_IC11          SB0 SB1 NX2 NX3 SB4 NX5 0 0 S0 S1 S2 0 0 N0 CD4512B PARAMS:
+  IO_LEVEL=0 MNTYMXDLY=0
X_OUTPUTBUFF2          WR 0 0 0 Q4 Q5 Q6 Q7 VDD VDD Y4 Y5 Y6 Y7 CD4076B PARAMS:
+  IO_LEVEL=0 MNTYMXDLY=0
X_OUTPUTBUFF1          WR 0 0 0 Q0 Q1 Q2 Q3 VDD VDD Y0 Y1 Y2 Y3 CD4076B PARAMS:
+  IO_LEVEL=0 MNTYMXDLY=0
X_AND8          Q0 Q1 Q2 Q3 Q7 Q6 Q5 Q4 M_UN0008 A M_UN0009 M_UN0010 CD4068B
+  PARAMS: IO_LEVEL=0 MNTYMXDLY=0
U_DSTM1         STIM(1,1) $G_DPWR $G_DGND N3833160 IO_STM IO_LEVEL=0 
+ 0 0
+ +0 1
+REPEAT FOREVER
+ +500n 0
+  +500n 1
+ ENDREPEAT
X_U131A          ARISE NARISE CD4069UB PARAMS: IO_LEVEL=0 MNTYMXDLY=0
X_U131B          T NT CD4069UB PARAMS: IO_LEVEL=0 MNTYMXDLY=0
X_U131C          P NP CD4069UB PARAMS: IO_LEVEL=0 MNTYMXDLY=0
X_U131D          SB0 NY0 CD4069UB PARAMS: IO_LEVEL=0 MNTYMXDLY=0
X_U131F          SB1 NY1 CD4069UB PARAMS: IO_LEVEL=0 MNTYMXDLY=0
X_U132A          N414529 WR CD4069UB PARAMS: IO_LEVEL=0 MNTYMXDLY=0
X_U132B          S1 RST_IN CD4069UB PARAMS: IO_LEVEL=0 MNTYMXDLY=0
X_U132C          S2 N365667 CD4069UB PARAMS: IO_LEVEL=0 MNTYMXDLY=0
X_U132D          S0 N366199 CD4069UB PARAMS: IO_LEVEL=0 MNTYMXDLY=0
X_U132E          S0 N364621 CD4069UB PARAMS: IO_LEVEL=0 MNTYMXDLY=0
X_U133A          S0CHANGE N365081 CD4069UB PARAMS: IO_LEVEL=0 MNTYMXDLY=0
X_U134A          N364545 N364729 S0CHANGE CD4071B PARAMS: IO_LEVEL=0
+  MNTYMXDLY=0
X_U134B          S0 S1 N414529 CD4071B PARAMS: IO_LEVEL=0 MNTYMXDLY=0
X_U134C          S1 N365843 MEAS CD4071B PARAMS: IO_LEVEL=0 MNTYMXDLY=0
X_U134D          NARISE NT NX5 CD4071B PARAMS: IO_LEVEL=0 MNTYMXDLY=0
X_U135A          NT P NX3 CD4071B PARAMS: IO_LEVEL=0 MNTYMXDLY=0
X_U135B          ARISE NT NX2 CD4071B PARAMS: IO_LEVEL=0 MNTYMXDLY=0
X_U136A          N364495 N364621 N364545 CD4081B PARAMS: IO_LEVEL=0 MNTYMXDLY=0
X_U136B          N453800 S0 N364729 CD4081B PARAMS: IO_LEVEL=0 MNTYMXDLY=0
X_U136C          N365081 A N365101 CD4081B PARAMS: IO_LEVEL=0 MNTYMXDLY=0
X_U136D          S0 N365523 RST_CNT CD4081B PARAMS: IO_LEVEL=0 MNTYMXDLY=0
X_U137A          RST_IN N365667 N365523 CD4081B PARAMS: IO_LEVEL=0 MNTYMXDLY=0
X_U137B          S0 S2 N365843 CD4081B PARAMS: IO_LEVEL=0 MNTYMXDLY=0
X_U137C          S0 S1 I1 CD4081B PARAMS: IO_LEVEL=0 MNTYMXDLY=0
X_U137D          S1 N366199 I0 CD4081B PARAMS: IO_LEVEL=0 MNTYMXDLY=0
X_U138A          ARISE T NY5 CD4081B PARAMS: IO_LEVEL=0 MNTYMXDLY=0
X_U138B          NARISE T NZ5 CD4081B PARAMS: IO_LEVEL=0 MNTYMXDLY=0
X_U138C          T P NY3 CD4081B PARAMS: IO_LEVEL=0 MNTYMXDLY=0
X_U138D          T NP NZ3 CD4081B PARAMS: IO_LEVEL=0 MNTYMXDLY=0
X_U139A          MEAS CLK_EN_OVERIDE N426095 CD4081B PARAMS: IO_LEVEL=0
+  MNTYMXDLY=0
X_U140A          N383512 RST_CNT N426095 Q0 Q1 Q2 Q3 CD4520B PARAMS: IO_LEVEL=0
+  MNTYMXDLY=0
X_U140B          0 RST_CNT Q3 Q4 Q5 Q6 Q7 CD4520B PARAMS: IO_LEVEL=0
+  MNTYMXDLY=0
X_U141A          N201913 N449503 CD40106B PARAMS: IO_LEVEL=0 MNTYMXDLY=0
X_U141B          N449503 P CD40106B PARAMS: IO_LEVEL=0 MNTYMXDLY=0
X_U141C          N3833160 N434393 CD40106B PARAMS: IO_LEVEL=0 MNTYMXDLY=0
X_U141D          N452189 CLK CD40106B PARAMS: IO_LEVEL=0 MNTYMXDLY=0
X_U142A          0 N01906 VDD VSS N01917 ad648a
X_U142B          0 N294365 VDD VSS N291780 ad648a
X_U143B          N447991 N29993 I1 CD4066B PARAMS: IO_LEVEL=0 MNTYMXDLY=0
X_U143C          N01906 N01917 RST_IN CD4066B PARAMS: IO_LEVEL=0 MNTYMXDLY=0
V_VREF1         N447991 0 -5
X_U143A          N447583 N29993 I0 CD4066B PARAMS: IO_LEVEL=0 MNTYMXDLY=0
X_U144B          0 S0CHANGE CLK N365101 S0CHANGE ARISE CLK_EN_OVERIDE CD4027B
+  PARAMS: IO_LEVEL=0 MNTYMXDLY=0
X_U144A          0 0 CLK S0 N364621 N364495 N453800 CD4027B PARAMS: IO_LEVEL=0
+  MNTYMXDLY=0
X_U145A          0 0 N434393 VDD VDD N452189 M_UN0011 CD4027B PARAMS:
+  IO_LEVEL=0 MNTYMXDLY=0
V_V6         N497810 0 8m
V_V7         N447583 0  
+PULSE 2 4 0 2 3 0 5
X_U146A          CLK N4910711 CD4069UB PARAMS: IO_LEVEL=0 MNTYMXDLY=0
X_U146B          N4910711 N4911441 CD4069UB PARAMS: IO_LEVEL=0 MNTYMXDLY=0
X_U146C          N4911441 N4912191 CD4069UB PARAMS: IO_LEVEL=0 MNTYMXDLY=0
X_U146D          N4912191 N383512 CD4069UB PARAMS: IO_LEVEL=0 MNTYMXDLY=0
X_U146E          SB2 NZ2 CD4069UB PARAMS: IO_LEVEL=0 MNTYMXDLY=0
X_U146F          SB4 NY4 CD4069UB PARAMS: IO_LEVEL=0 MNTYMXDLY=0
X_U147A          N291780 N497810 VDD 0 N201913 LM293
** Floating/unmodeled pin fixups **
R__UC0001   M_UN0001  0   {1/GMIN}
R__UC0002   M_UN0002  0   {1/GMIN}
R__UC0003   M_UN0003  0   {1/GMIN}
R__UC0004   M_UN0004  0   {1/GMIN}
R__UC0005   M_UN0005  0   {1/GMIN}
R__UC0006   M_UN0006  0   {1/GMIN}
R__UC0007   M_UN0007  0   {1/GMIN}
R__UC0008   M_UN0008  0   {1/GMIN}
R__UC0009   M_UN0009  0   {1/GMIN}
R__UC0010   M_UN0010  0   {1/GMIN}
R__UC0011   M_UN0011  0   {1/GMIN}
